US07608563B2
In acetone (30 mL) was dissolved 2.00 g (11.2 mmol) of 1-(2-hydroxy-3,4,6-trimethylphenyl)ethanone which can be produced by the method disclosed in Chemical Research in Toxicology, 1997, vol. 10, No. 3, pp. 335-343, 3.10 g (22.4 mmol) of potassium carbonate, then 1.40 mL (22.5 mmol) of methyl iodide were added to the solution, and the resulting mixture was refluxed for 5 hours. After cooling to room temperature, the reaction mixture was concentrated, and the residue was poured into water, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (Wako gel C-100, hexane:ethyl acetate gradient) to obtain 1.90 g (9.90 mmol, Yield: 88.4%) of 1-(2-methoxy-3,4,6-trimethylphenyl)ethanone.

reactant | 1-(2-hydroxy-3,4,6-trimethylphenyl)ethanone | 11.2 mmol, 2.00 g | OC1=C(C(=CC(=C1C)C)C)C(C)=O | C11H14O2
reactant | potassium carbonate | 22.4 mmol, 3.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 22.5 mmol, 1.40 mL | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 1-(2-methoxy-3,4,6-trimethylphenyl)ethanone | 9.90 mmol, 1.90 g, Yield: 88.4% | COC1=C(C(=CC(=C1C)C)C)C(C)=O | C12H16O2
